US07795267B2
1,4-Bis(phenylmethyl)-N-methoxy-N-methyl-2-piperazine carboxamide
1,4-Bis(phenylmethyl)-2-piperazine carboxylic acid (5.0 g, 16 mmol) was dissolved in N,N-dimethylformamide (80 mL). 1-Ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (3.1 g, 16 mmol), 1-hydroxybenzotriazole (2.2 g, 16 mmol), N,O-dimethylhydroxylamine hydrochloride (1.9 g, 19 mmol) and triethylamine (2.7 mL, 19 mmol) were added thereto, and the mixture was stirred at room temperature for 3 days. To the reaction solution was added ethyl acetate, and the resulting mixture was washed with a 0.5 M aqueous sodium hydrogen carbonate solution, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified with silica gel column chromatography (hexane:ethyl acetate=2:1 to 1:1) to obtain the title compound (5.0 g, yield 87%).

reactant | 1,4-Bis(phenylmethyl)-2-piperazine carboxylic acid | 16 mmol, 5.0 g | C1(=CC=CC=C1)CN1C(CN(CC1)CC1=CC=CC=C1)C(=O)O | C19H22N2O2
reactant | 1-Ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 16 mmol, 3.1 g | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-hydroxybenzotriazole | 16 mmol, 2.2 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | N,O-dimethylhydroxylamine hydrochloride | 19 mmol, 1.9 g | Cl.CNOC
reactant | triethylamine | 19 mmol, 2.7 mL | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 80 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1,4-Bis(phenylmethyl)-N-methoxy-N-methyl-2-piperazine carboxamide | 5.0 g, yield 87% | C1(=CC=CC=C1)CN1C(CN(CC1)CC1=CC=CC=C1)C(=O)N(C)OC | C21H27N3O2
